US07842696B2
Di-tert-butyl dicarbonate (500 mg, 2.3 mmole) was added to a cold (0-4° C.) solution of (1-biphenyl-4-yl-ethylamino)-acetic acid methyl ester. (295 mg, 1.1 mmole) and triethyl amine (360 mg, 0.5 mL, 3.5 mole) in DCM (5 mL) and stirring was continued at room temperature overnight. Cold water was then added and extracted with DCM. The organic phase was dried over Na2SO4 and concentrated under reduced pressure. The resulting residue was purified by column chromatography (using neutral alumina and 10% EtOAc in hexane as eluent) to afford 290 mg (72.5% yield) of [(1-biphenyl-4-yl-ethyl)-tert-butoxycarbonyl-amino]-acetic acid methyl ester. 1H NMR (CDCl3): δ 7.6-7.5 (m, 4H), 7.5-7.3 (m, 5H), 3.8 (d, 1H), 3.7 (s, 3H), 3.6-3.4 (t, 1H), 1.8-1.6 (s, 9H), 1.5 (d, 3H).

reactant | Di-tert-butyl dicarbonate | 2.3 mmole, 500 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | (1-biphenyl-4-yl-ethylamino)-acetic acid methyl ester | COC(CNC(C)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C17H19NO2
reactant | triethyl amine | 3.5 mole, 0.5 mL, 360 mg | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | [(1-biphenyl-4-yl-ethyl)-tert-butoxycarbonyl-amino]-acetic acid methyl ester | 290 mg, 72.5% yield | COC(CN(C(=O)OC(C)(C)C)C(C)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C22H27NO4
